US09428465B2
Step 3. Preparation of 3-(cyclopropylmethyl)-N-hexyl-5-methyl-2,4-dioxo-pyrimidine-1-carboxamide
The title compound was obtained according to the procedure described for the synthesis of Example 1, starting from 3-(cyclopropylmethyl)-5-methyl-1H-pyrimidine-2,4-dione (0.05 g, 0.30 mmol); 1.8 equivalents of hexyl isocyanate were used herein. The crude product was purified by preparative HPLC-MS to afford the title compound (0.02 g, 23%) as colorless oil. 1H NMR (400 MHz, CDCl3): δ 0.36-0.44 (m, 2H), 0.44-0.53 (m, 2H), 0.89 (t, J=6.7 Hz, 3H), 1.17-1.48 (m, 6H), 1.50-1.77 (m, 3H), 2.00 (d, J=1.3 Hz, 3H), 3.38 (td, J=7.1, 5.5 Hz, 2H), 3.86 (d, J=7.2 Hz, 2H), 8.23 (q, J=1.3 Hz, 1H), 9.37 (t, J=5.5 Hz, 1H). 13C NMR (101 MHz, CDCl3): δ 4.02, 9.76, 13.47, 14.15, 22.66, 26.70, 29.35, 31.55, 41.34, 46.25, 111.81, 132.62, 150.77, 152.71, 163.16. MS (ESI) m/z: 308 [M-H]+.

reactant | 3-(cyclopropylmethyl)-5-methyl-1H-pyrimidine-2,4-dione | 0.30 mmol, 0.05 g | C1(CC1)CN1C(NC=C(C1=O)C)=O | C9H12N2O2
reactant | hexyl isocyanate | 1.8 equivalents | C(CCCCC)N=C=O | C7H13NO
product | 3-(cyclopropylmethyl)-N-hexyl-5-methyl-2,4-dioxo-pyrimidine-1-carboxamide | 0.02 g, 23% | C1(CC1)CN1C(N(C=C(C1=O)C)C(=O)NCCCCCC)=O | C16H25N3O3
